US06166209
(9H-Fluoren-9-yl)-[2-(3H-spiro[isobenzofuran-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride (1:2)
The title compound, m.p. 244° C. and MS: m/e=397.3 (M+H+), was prepared in accordance with the general method of example 1 from 9-amino-fluorene, chloroacetyl chloride, spiro[isobenzofuran-1(3H),4'-piperidine] and Hcl.

reactant | 9-amino-fluorene | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | spiro[isobenzofuran-1(3H),4'-piperidine] | N1CCC2(CC1)OCC1=CC=CC=C12 | C12H15NO
product | (9H-Fluoren-9-yl)-[2-(3H-spiro[isobenzofuran-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)NCCN1CCC2(CC1)OCC1=CC=CC=C12 | InChI=1S/C27H28N2O.ClH/c1-6-12-25-20(7-1)19-30-27(25)13-16-29(17-14-27)18-15-28-26-23-10-4-2-8-21(23)22-9-3-5-11-24(22)26;/h1-12,26,28H,13-19H2;1H
